US07781463B2
4-Benzyl-2-ethyl-1,2,4-thiadiazolidine-3,5-dione (Compound 8)
Reagents: Benzyl isothiocyanate (0.86 ml, 6.5 mmol), 35% HCl (3.1 ml), KMnO4 (0.5 g), ethyl isocyanate (0.51 ml, 6.5 mmol).

reactant | Benzyl isothiocyanate | 6.5 mmol, 0.86 ml | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | HCl | 3.1 ml | Cl | ClH
reactant | KMnO4 | 0.5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | ethyl isocyanate | 6.5 mmol, 0.51 ml | C(C)N=C=O | C3H5NO
product | 4-Benzyl-2-ethyl-1,2,4-thiadiazolidine-3,5-dione | C(C1=CC=CC=C1)N1C(N(SC1=O)CC)=O | C11H12N2O2S
